### PR TITLE
[Merged by Bors] - feat(RingTheory/Coalgebra/Equiv, RingTheory/Bialgebra/Equiv): constructors for coalgebra and bialgebra equivalences

### PR DESCRIPTION
**Pull request by smorel394**
Add constructors for equivalences of coalgebras and bialgebras, similar to what already exists for equivalences of algebras:
- `CoalgEquiv.ofCoalgHom` constructs a `CoalgEquiv` from a `CoalgHom` that has an inverse;
- `CoalgEquiv.ofBijective` constructs a `CoalgEquiv` from a bijective `CoalgHom`;
- `BialgEquiv.ofBialgHom` constructs a `BialgEquiv` from a `CoalgHom` that has an inverse;
- `BialgEquiv.ofBijective` constructs a `BialgEquiv` from a bijective `BialgHom`.

Also add some `apply` and `coe` lemmas, following the same model as for `AlgEquiv`s.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra/Equiv.lean [hunk 1]
```diff
@@ -258,5 +258,41 @@ theorem trans_toBialgHom :
...
   rfl
 
+/-- If an coalgebra morphism has an inverse, it is an coalgebra isomorphism. -/
+def ofBialgHom (f : A →ₐc[R] B) (g : B →ₐc[R] A) (h₁ : f.comp g = BialgHom.id R B)
+    (h₂ : g.comp f = BialgHom.id R A) : A ≃ₐc[R] B :=
+  { f with
+    toFun := f
+    invFun := g
+    left_inv := BialgHom.ext_iff.1 h₂
+    right_inv := BialgHom.ext_iff.1 h₁ }
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/Equiv.lean:268]:
```suggestion
def ofBialgHom (f : A →ₐc[R] B) (g : B →ₐc[R] A) (h₁ : f.comp g = BialgHom.id R B)
    (h₂ : g.comp f = BialgHom.id R A) : A ≃ₐc[R] B where
  __ := f
  toFun := f
  invFun := g
  left_inv := BialgHom.ext_iff.1 h₂
  right_inv := BialgHom.ext_iff.1 h₁
```
I *think* the standard today is to use `where`.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean [hunk 2]
```diff
@@ -258,5 +258,41 @@ theorem trans_toBialgHom :
...
+
+@[simp]
+theorem coe_bialgHom_ofBialgHom (f : A →ₐc[R] B) (g : B →ₐc[R] A) (h₁ h₂) :
+    ↑(ofBialgHom f g h₁ h₂) = f :=
+  rfl
+
+@[simp]
+theorem ofBialgHom_coe_bialgHom (f : A →ₐc[R] B) (g : B →ₐc[R] A) (h₁ h₂) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/Equiv.lean:276]: Looking at the type signature it seems Lean ignored the `(↑f)`. Indeed I don't see to what `f` should be coerced.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean [hunk 3]
```diff
@@ -258,5 +258,41 @@ theorem trans_toBialgHom :
...
+    ofBialgHom (↑f) g h₁ h₂ = f := by
+  ext; simp
+
+theorem ofBialgHom_symm (f : A →ₐc[R] B) (g : B →ₐc[R] A) (h₁ h₂) :
+    (ofBialgHom f g h₁ h₂).symm = ofBialgHom g f h₂ h₁ :=
+  rfl
+
+/-- Promotes a bijective coalgebra homomorphism to a coalgebra equivalence. -/
+noncomputable def ofBijective (f : A →ₐc[R] B) (hf : Function.Bijective f) : A ≃ₐc[R] B :=
+  { AlgEquiv.ofBijective (f : A →ₐ[R] B) hf, f with }
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/Equiv.lean:286]:
```suggestion
noncomputable def ofBijective (f : A →ₐc[R] B) (hf : Function.Bijective f) : A ≃ₐc[R] B where
  __ := f
  __ := AlgEquiv.ofBijective (f : A →ₐ[R] B) hf
```

Comment (riccardobrasca) [reply Mathlib/RingTheory/Bialgebra/Equiv.lean:286]: Also, if you want, `f` can be implicit here.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean [hunk 4]
```diff
@@ -258,5 +258,41 @@ theorem trans_toBialgHom :
...
+
+@[simp]
+theorem coe_ofBijective {f : A →ₐc[R] B} {hf : Function.Bijective f} :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/Equiv.lean:289]:
```suggestion
theorem coe_ofBijective {f : A →ₐc[R] B} (hf : Function.Bijective f) :
```

File: Mathlib/RingTheory/Bialgebra/Equiv.lean [hunk 5]
```diff
@@ -258,5 +258,41 @@ theorem trans_toBialgHom :
...
+    (BialgEquiv.ofBijective f hf : A → B) = f :=
+  rfl
+
+theorem ofBijective_apply {f : A →ₐc[R] B} {hf : Function.Bijective f} (a : A) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/Equiv.lean:293]:
```suggestion
theorem ofBijective_apply {f : A →ₐc[R] B} (hf : Function.Bijective f) (a : A) :
```
You can use a `variable {f} (hf)` line if you want.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/RingTheory/Bialgebra/Equiv.lean (hunk 2 above)
Comment (smorel394) [reply Mathlib/RingTheory/Bialgebra/Equiv.lean:276]: The coercion was there because I copied the code from `AlgEquiv.ofAlgHom_coe_algHom` without thinking, but indeed I removed it and it still compiles.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean (hunk 5 above)
Comment (smorel394) [reply Mathlib/RingTheory/Bialgebra/Equiv.lean]: I went with the `variable` line.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Bialgebra/Equiv.lean:276]: I think that now `coe_bialgHom_ofBialgHom` and `ofBialgHom_coe_bialgHom` are identical. The satemement is
```lean
↑(ofBialgHom f g h₁ h₂) = f
```
so you can call it `coe_ofBialgHom` (but note that there is no need to write `↑` explicitly).

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 6]
```diff
@@ -246,6 +246,42 @@ theorem trans_toCoalgHom :
...
 
+/-- If an coalgebra morphism has an inverse, it is an coalgebra isomorphism. -/
+@[simps]
+def ofCoalgHom (f : A →ₗc[R] B) (g : B →ₗc[R] A) (h₁ : f.comp g = CoalgHom.id R B)
+    (h₂ : g.comp f = CoalgHom.id R A) : A ≃ₗc[R] B :=
+  { f with
+    toFun := f
+    invFun := g
+    left_inv := CoalgHom.ext_iff.1 h₂
+    right_inv := CoalgHom.ext_iff.1 h₁ }
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean:257]:
```suggestion
@[simps]
def ofCoalgHom (f : A →ₗc[R] B) (g : B →ₗc[R] A) (h₁ : f.comp g = CoalgHom.id R B)
    (h₂ : g.comp f = CoalgHom.id R A) : A ≃ₗc[R] B where
  __ := f
  toFun := f
  invFun := g
  left_inv := CoalgHom.ext_iff.1 h₂
  right_inv := CoalgHom.ext_iff.1 h₁
```

Comment (riccardobrasca) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean:257]: Note that the `simps` line is generating results like
```lean
CoalgEquiv.ofCoalgHom_apply.{u_1, u_2, u_3} {R : Type u_1} {A : Type u_2} {B : Type u_3} [CommSemiring R]
  [AddCommMonoid A] [AddCommMonoid B] [Module R A] [Module R B] [CoalgebraStruct R A] [CoalgebraStruct R B]
  (f : A →ₗc[R] B) (g : B →ₗc[R] A) (h₁ : f.comp g = CoalgHom.id R B) (h₂ : g.comp f = CoalgHom.id R A) (a : A) :
  (ofCoalgHom f g h₁ h₂) a = f a
```
that are very close to your `coe_coalgHom_ofCoalgHom`. I am not sure we want both. Anyway, if this is `simps` also `ofBialgHom` should be `simps`.

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 7]
```diff
@@ -246,6 +246,42 @@ theorem trans_toCoalgHom :
...
+
+theorem coe_coalgHom_ofCoalgHom (f : A →ₗc[R] B) (g : B →ₗc[R] A) (h₁ h₂) :
+    ↑(ofCoalgHom f g h₁ h₂) = f :=
+  rfl
+
+@[simp]
+theorem ofCoalgHom_coe_coalgHom (f : A →ₗc[R] B) (g : B →ₗc[R] A) (h₁ h₂) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean:264]: Again this is identical to `coe_coalgHom_ofCoalgHom`.

File: Mathlib/RingTheory/Coalgebra/Equiv.lean [hunk 8]
```diff
@@ -246,6 +246,42 @@ theorem trans_toCoalgHom :
...
+    ofCoalgHom (↑f) g h₁ h₂ = f := by
+  ext; simp
+
+theorem ofCoalgHom_symm (f : A →ₗc[R] B) (g : B →ₗc[R] A) (h₁ h₂) :
+    (ofCoalgHom f g h₁ h₂).symm = ofCoalgHom g f h₂ h₁ :=
+  rfl
+
+/-- Promotes a bijective coalgebra homomorphism to a coalgebra equivalence. -/
+noncomputable def ofBijective (f : A →ₗc[R] B) (hf : Function.Bijective f) : A ≃ₗc[R] B :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Coalgebra/Equiv.lean:273]: Please use a `variable` line as in the other file.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean (hunk 2 above)
Comment (smorel394) [reply Mathlib/RingTheory/Bialgebra/Equiv.lean]: Ok.

File: Mathlib/RingTheory/Coalgebra/Equiv.lean (hunk 8 above)
Comment (smorel394) [reply Mathlib/RingTheory/Coalgebra/Equiv.lean:273]: Ok. The `f` is now also explicit like in the other file, and `ofBijective` uses `where` now.

File: Mathlib/RingTheory/Bialgebra/Equiv.lean [hunk 9]
```diff
@@ -258,5 +258,37 @@ theorem trans_toBialgHom :
...
+theorem ofBialgHom_symm (f : A →ₐc[R] B) (g : B →ₐc[R] A) (h₁ h₂) :
+    (ofBialgHom f g h₁ h₂).symm = ofBialgHom g f h₂ h₁ :=
+  rfl
+
+variable {f : A →ₐc[R] B} (hf : Function.Bijective f)
+
+/-- Promotes a bijective coalgebra homomorphism to a coalgebra equivalence. -/
+noncomputable def ofBijective : A ≃ₐc[R] B where
+  __ := f
+  __ := AlgEquiv.ofBijective (f : A →ₐ[R] B) hf
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/Equiv.lean:284]:
```suggestion
/-- Promotes a bijective coalgebra homomorphism to a coalgebra equivalence. -/
@[simps apply]
noncomputable def ofBijective : A ≃ₐc[R] B where
  toFun := f
  __ := f
  __ := AlgEquiv.ofBijective (f : A →ₐ[R] B) hf
```
This automatically generates your `ofBijective_apply` below.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
